### PR TITLE
feat(ErdosProblems): 156

### LINKED ISSUE #392: Erdős Problem 156: Maximal Sidon set of size $O(N^{1/3})$
### What is the conjecture
    
https://www.erdosproblems.com/156

  Does there exist a maximal Sidon set $A\subset \{1,\ldots,N\}$ of size $O(N^{1/3})$?

Status: open

### Prerequisites needed
None, Sidon set are already in `ForMathlib`.

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by danielchin**
Closes #392 

Formalizes Erdos Problem 156: https://www.erdosproblems.com/156

Assisted by Gemini/Antigravity

### CODE REVIEW

File: FormalConjectures/ErdosProblems/156.lean [hunk 1]
```diff
@@ -0,0 +1,81 @@
...
+-/
+def greedyMaximalSidonSet (N : ℕ) : Finset ℕ :=
+  ((List.range N).map (· + 1)).foldl
+    (fun A x ↦
+      if ∀ a ∈ A, ∀ b ∈ A, ∀ c ∈ A, x + a ≠ b + c then
+        insert x A
+      else
+        A)
+    ∅
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/156.lean:56]:
```suggestion

@[category test, AMS 5]
theorem greedyMaximalSidonSet_IsSiden (n : ℕ) : IsSidon <| greedyMaximalSidonSet n := by
  sorry
  
```
Should we add a test like this here? On could also change the definition of `greedyMaximalSidonSet` so that is uses `IsSidon` in the definition, which will make proving this theorem easier

File: FormalConjectures/ErdosProblems/156.lean [hunk 2]
```diff
@@ -0,0 +1,81 @@
...
+A greedy construction of a maximal Sidon set.
+-/
+def greedyMaximalSidonSet (N : ℕ) : Finset ℕ :=
+  ((List.range N).map (· + 1)).foldl
+    (fun A x ↦
+      if ∀ a ∈ A, ∀ b ∈ A, ∀ c ∈ A, x + a ≠ b + c then
+        insert x A
+      else
+        A)
+    ∅
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/156.lean]: Note that we already have a definition of greedy Sidon in https://github.com/google-deepmind/formal-conjectures/blob/main/FormalConjectures/ErdosProblems/340.lean 

The definition seems wrong here, since it misses the cases that the new element x might be part of the a collision `x + x = a + b`, right?!

Let's move a definition of greedy Sidon set to `FormalConjecturesForMathlib`!

File: FormalConjectures/ErdosProblems/156.lean [hunk 3]
```diff
@@ -0,0 +1,81 @@
...
+
+/--
+It is easy to prove that the greedy construction of a maximal Sidon set in $\{1,\ldots,N\}$ has size
+$\gg N^{1/3}$.
+-/
+@[category research solved, AMS 5]
+theorem erdos_156.variants.greedy_lower_bound :
+    (fun N ↦ ((greedyMaximalSidonSet N).card : ℝ)) ≫ (fun N ↦ (N : ℝ) ^ (1 / 3 : ℝ)) := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/156.lean:64]: Please also compare with https://github.com/google-deepmind/formal-conjectures/blob/ca6ba63b3b3bb7d43189ddc62736e750924fdc22/FormalConjectures/ErdosProblems/44.lean#L76, which I think has no source whatsoever, so potentially should be removed. 
This was missed in the disucssion here: https://github.com/google-deepmind/formal-conjectures/pull/286#discussion_r2269331158

**Review by mo271 — COMMENTED** [review]
Thanks!
A first few remarks, but looks good in general...

File: FormalConjectures/ErdosProblems/156.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/156.lean:56]: Added test.

File: FormalConjectures/ErdosProblems/156.lean (hunk 2 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/156.lean]: Moved this to a central location with a corrected defintion, but the usage in 340 is slightly different since it looks for the Nth integer to be placed in the Sidon set greedily.

File: FormalConjectures/ErdosProblems/156.lean (hunk 3 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/156.lean:64]: I believe this are different problems. The theorem in 156 is stating that a greedy construction of a Sidon set has a lower bound of $N^{1/3}$, but the theorem in 44 is stating that there exists a construction of a Sidon set of for N that is at least size of $\sqrt N/2$.

Though I would be okay with removing it purely because it's not listed on the Erdos problems website.

File: FormalConjecturesForMathlib/Combinatorics/Basic.lean [hunk 4]
```diff
@@ -160,4 +160,20 @@ theorem IsSidon.exists_insert_ge {A : Finset ℕ} (h : A.Nonempty) (hA : IsSidon
     · exact insert_ge_max' h hA hs
     · exact insert_ge_max' h hA le_rfl
 
+/-- A predicate checking whether inserting `x` into a Sidon set `A` preserves the Sidon
+property. This requires both that `x + x` does not collide with any sum `a + b` for
+`a, b ∈ A`, and that `x + a` does not collide with `b + c` for `a, b, c ∈ A`. -/
+def canInsertSidon (A : Finset ℕ) (x : ℕ) : Prop :=
+  ∀ a ∈ A, ∀ b ∈ A, x + x ≠ a + b ∧ ∀ c ∈ A, x + a ≠ b + c
```
Comment (smmercuri) [inline FormalConjecturesForMathlib/Combinatorics/Basic.lean]: Isn't this predicate just `IsSidon (A ∪ {x})`?

File: FormalConjecturesForMathlib/Combinatorics/Basic.lean [hunk 5]
```diff
@@ -160,4 +160,20 @@ theorem IsSidon.exists_insert_ge {A : Finset ℕ} (h : A.Nonempty) (hA : IsSidon
...
+
+instance (A : Finset ℕ) (x : ℕ) : Decidable (canInsertSidon A x) :=
+  inferInstanceAs (Decidable (∀ a ∈ A, ∀ b ∈ A, x + x ≠ a + b ∧ ∀ c ∈ A, x + a ≠ b + c))
+
+/-- The greedy Sidon set in `{1, …, N}`: starting from `∅`, iterate through `1, …, N` and
+include `x` if and only if `A ∪ {x}` remains Sidon. -/
+def greedySidonSet (N : ℕ) : Finset ℕ :=
+  ((List.range N).map (· + 1)).foldl
+    (fun A x => if canInsertSidon A x then insert x A else A)
+    ∅
```
Comment (smmercuri) [inline FormalConjecturesForMathlib/Combinatorics/Basic.lean]: Does this coincide with the `greedySidon` construction in [`ErdosProblems/340.lean`](https://github.com/google-deepmind/formal-conjectures/blob/main/FormalConjectures/ErdosProblems/340.lean)? If so, maybe we should unify them in a `ForMathlib` file.

**Comment by mo271** [comment]
would be great to get this over the line, @danielchin!

**Comment by danielchin** [comment]
Oops, apologies. I'll take a look at this again in the next day or so.

File: FormalConjecturesForMathlib/Combinatorics/Basic.lean (hunk 4 above)
Comment (danielchin) [reply FormalConjecturesForMathlib/Combinatorics/Basic.lean]: It is! But I removed this in favor of the logic from 340 down below.

File: FormalConjecturesForMathlib/Combinatorics/Basic.lean (hunk 5 above)
Comment (danielchin) [reply FormalConjecturesForMathlib/Combinatorics/Basic.lean]: Yup, I'm favoring the 340 logic since it can be a bit more versatile and handle both use cases. Pulled the 340 logic into Basic lean and using it in both 340 and 156.

File: FormalConjecturesForMathlib/Combinatorics/Basic.lean [hunk 6]
```diff
@@ -182,4 +182,40 @@ theorem IsSidon.exists_insert_ge {A : Finset ℕ} (h : A.Nonempty) (hA : IsSidon
...
+
+/-- `greedySidon` is the sequence obtained by the initial set $\{1\}$ and iteratively obtaining
+the next smallest integer that preserves the Sidon property of the set. This gives the
+sequence `1, 2, 4, 8, 13, 21, 31, ...`. -/
+def greedySidon (n : ℕ) : ℕ := greedySidon.aux n |>.2
+
+/-- The greedy Sidon set in `{1, …, N}`: starting from `∅`, iterate through `1, …, N` and
+include `x` if and only if `A ∪ {x}` remains Sidon.
+Alternatively, this is precisely the set of elements in the greedy Sidon sequence that are `≤ N`. -/
+def greedySidonSet (N : ℕ) : Finset ℕ :=
```
Comment (smmercuri) [inline FormalConjecturesForMathlib/Combinatorics/Basic.lean]: Perhaps this could be named `greedySidonBelow` instead? `greedySidonSet` is somewhat ambiguous because it could be either the first `N` numbers in the sequence as a set, or the set of elements in the sequence up to `N`.

Comment (danielchin) [reply FormalConjecturesForMathlib/Combinatorics/Basic.lean]: Done.

**Comment by danielchin** [comment]
-awaiting-author

File: FormalConjectures/ErdosProblems/156.lean [hunk 7]
```diff
@@ -0,0 +1,73 @@
...
+-/
+@[category research open, AMS 5]
+theorem erdos_156 :
+    answer(sorry) ↔
+      (fun N ↦ (minMaximalSidonSet N : ℝ)) =O[atTop] (fun N ↦ (N : ℝ) ^ (1 / 3 : ℝ)) := by
+  sorry
+
+@[category test, AMS 5]
+theorem greedySidonSet_isSidon (n : ℕ) : IsSidon (Finset.greedySidonBelow n : Set ℕ) := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/156.lean]:
```suggestion
  intro i₁ hi₁ j₁ hj₁ i₂ hi₂ j₂ hj₂ eq
  have subset : Finset.greedySidonBelow n ⊆ (Finset.greedySidon.aux n).1 := Finset.filter_subset _ _
  exact (Finset.greedySidon.aux n).1.2 i₁ (subset hi₁) j₁ (subset hj₁) i₂ (subset hi₂) j₂ (subset hj₂) eq
```

Let's just fill this one...

**Review by mo271 — APPROVED** [review]
Thanks, looks great! 
Just one suggestion to fill in a trivial proof for a test statement

File: FormalConjectures/ErdosProblems/156.lean (hunk 7 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/156.lean]: Done.

**Comment by danielchin** [comment]
-awaiting-author

**Comment by mo271** [comment]
Thanks again!
